US06706707B2
2-Biphenyl-4-ylethynyl-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester
The title compound, MS: m/e=345.4 (M+H+) was prepared in accordance with the general method of example 1b from 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester and 4-ethynylbiphenyl.

reactant | 2-bromo-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)Br)C | C8H11BrN2O2
reactant | 4-ethynylbiphenyl | C(#C)C1=CC=C(C=C1)C1=CC=CC=C1 | C14H10
product | 2-Biphenyl-4-ylethynyl-3,5-dimethyl-3H-imidazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C(=NC1C)C#CC1=CC=C(C=C1)C1=CC=CC=C1)C | C22H20N2O2
